US08168651B2
Methyl 2-amino-3-bromobenzoate (1.0 eq, 652 mg, 2.61 mmol) and 4-(diisopropylcarbamoyl)pyridin-3-ylboronic acid (prepared according to the procedure described in PCT patent application WO2005/105814), 1.0 eq, 600 mg, 2.61 mmol) were combined with cesium carbonate (2.0 eq, 1.699 g, 5.21 mmol) in dioxane containing 5% of water (6 ml). The mixture was degassed by bubbling nitrogen for 10 minutes. PdCl2(dppf) (0.05 eq, 95 mg) was added and the reaction stirred at reflux for 2 hours. Dioxane was evaporated, water was added and the material extracted with CH2Cl2 (3×). The combined extracts were dried over Na2SO4 and the solvents removed in vacuo. The material was purified by flash chromatography on silica gel (eluant 0.5% MeOH in CH2Cl2) to afford methyl 2-amino-3-(4-(diisopropylcarbamoyl)pyridin-3-yl)benzoate as a greenish foam (244 mg, 31% yield). LCMS (ES): >95% pure, m/z 356 [M+1]+.

reactant | Methyl 2-amino-3-bromobenzoate | 2.61 mmol, 652 mg, 1.0 eq | NC1=C(C(=O)OC)C=CC=C1Br | C8H8BrNO2
reactant | 4-(diisopropylcarbamoyl)pyridin-3-ylboronic acid | C(C)(C)N(C(=O)C1=C(C=NC=C1)B(O)O)C(C)C | C12H19BN2O3
reactant | cesium carbonate | 5.21 mmol, 1.699 g, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 6 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 95 mg, 0.05 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 2-amino-3-(4-(diisopropylcarbamoyl)pyridin-3-yl)benzoate | 244 mg, 31% yield | NC1=C(C(=O)OC)C=CC=C1C=1C=NC=CC1C(N(C(C)C)C(C)C)=O | C20H25N3O3
